US06156748
B. 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-cyanoethyl)oxazole
To a solution of sodium cyanide (84.5 mmole, 5.50 g) in dimethylsulfoxide (120 ml) at 92° C. was added 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-iodoethyl)oxazole (70.4 mmole, 30.08 g) via a powder addition funnel over an eightyfive minute period. Approximately 1.5 hours later, the reaction was cooled to room temperature and treated with 1:1 ethyl acetate:hexane (250 ml) and 10% aqueous potassium carbonate (250 ml). Three distinct phases result. The lowest phase was separated and discarded. The remaining phases were separated. The aqueous phase was extracted with 1:1 ethyl acetate:hexane (2×200 ml). Combined organic phases were dried over sodium chloride, filtered, reduced in volume and subjected to preparatory chromotography. The material was eluted with 10 to 30% ethyl acetate:hexane. Fractions containing the desired product were combined, dried over MgSO4, filtered and concentrated in vacuo to afford 18.25 g (79%).

reactant | sodium cyanide | 84.5 mmole, 5.50 g | [C-]#N.[Na+]
reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-iodoethyl)oxazole | 70.4 mmole, 30.08 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC=C(N1)CCI | C19H26INO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | 250 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-cyanoethyl)oxazole | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC=C(N1)CCC#N | C20H26N2O2
